US07176227B2
Synthesis of 4-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethyl)benzaldehyde
Methyl 4-(aminomethyl)-benzoate hydrochloride (manufactured by Aldrich Corporation) (773 mg) was dissolved in THF (50 ml) and then gradually added with lithium aluminum hydride (300 mg) under ice-cooling. The solution was stirred at room temperature for 3 hours and then cooled with ice, followed by gradual addition of a concentrated sodium hydroxide aqueous solution until foam was not observed. Celite filtration was carried out on the solution using chloroform as a solvent and then the filtrate was concentrated and dried. The dried product was dissolved in purified water (10 ml) and THF (10 ml). After having been cooled with ice, the solution was added with N-carbethoxyphthalimide (1.26 g) and sodium carbonate (900 mg). After the mixture had been stirred at room temperature for 4 hours, THF was distilled off and chloroform was then added to the residue to carry out extraction. The organic layer was dried with anhydrous sodium sulfate and the solvent was then distilled off. Subsequently, the residue was further dried under vacuum. Next, this compound was dissolved in chloroform (20 ml) and then added with manganese dioxide (5.0 g), followed by stirring at room temperature for 3 hours. After the solution had been subjected to Celite filtration, the filtrate was concentrated and then purified through silica gel column chromatography (chloroform/methanol), thereby obtaining the subject compound (259 mg) as a white solid.

reactant | Methyl 4-(aminomethyl)-benzoate hydrochloride | 773 mg | Cl.NCC1=CC=C(C(=O)OC)C=C1
reactant | lithium aluminum hydride | 300 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethyl)benzaldehyde | 259 mg | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=O)C=C1 | C16H11NO3
